US07728030B2
N-[(1S,2R)-1-Methyl-2-phenyl-2-{[1-(4-pyridyl)-1H-indazole-5-yl]oxy}ethyl]furan-2-carboxamide
(αS,βR)-β{[1-(4-Pyridyl)-1H-indazole-5-yl]oxy}-α-methylbenzeneethanamine (64.3 mg, 0.19 mmol) is dissolved in 7.1 mL of dichloromethane. Triethylamine (0.062 mL, 0.45 mmol) and 2-furoylchloride (24.3 mg, 0.19 mmol) are added. After 4 h stirring at r.t. the reaction mixture is diluted with dichloromethane, washed with water and brine and dried over Na2SO4. The reaction mixture is filtered, the solvent evaporated and the residue purified by chromatography (silicagel, eluents: ethyl acetate/hexane). 53.7 mg (65.6%) of the title compound are obtained.

reactant | (αS,βR)-β{[1-(4-Pyridyl)-1H-indazole-5-yl]oxy}-α-methylbenzeneethanamine | 0.19 mmol, 64.3 mg | N1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@@H](N)C)C1=CC=CC=C1 | C21H20N4O
reactant | Triethylamine | 0.45 mmol, 0.062 mL | C(C)N(CC)CC | C6H15N
reactant | 2-furoylchloride | 0.19 mmol, 24.3 mg | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | dichloromethane | 7.1 mL | ClCCl | CH2Cl2
product | N-[(1S,2R)-1-Methyl-2-phenyl-2-{[1-(4-pyridyl)-1H-indazole-5-yl]oxy}ethyl]furan-2-carboxamide | 53.7 mg, 65.6% | C[C@@H]([C@H](OC=1C=C2C=NN(C2=CC1)C1=CC=NC=C1)C1=CC=CC=C1)NC(=O)C=1OC=CC1 | C26H22N4O3
